US05922861
A stirred solution of 4-methoxybenzyl (6R,7R) -7-phenylacet-amido-3-(1-propenyl)-ceph-3-em-4-carboxylate (0.509 g, purity 9% E-isomer, 84% Z-isomer, 0.99 mmol) in dichloromethane (15 ml) was cooled to 2° C. Titanium tetrachloride (0.5 ml, 4.5 mmol) was added in 1 min. After 30 min the brown suspension was mixed with a chilled mixture of dichloromethane (50 ml) and a 2M solution of hydrochloric acid in water (50 ml). The organic phase was separated and extracted with a 2M solution of hydrochloric acid in water (3×50 ml). The aqueous phases were extracted with dichloromethane (25 ml). The combined organic phases were analyzed using HPLC: 0.036 g (6R,7R)-7-phenylacetamido-3-[(E)-1-propenyl]-ceph-3-em-4-carboxylic acid (0.10 mmol, yield 10.2%); 0.301 g (6R,7R)-7-phenylacetamido-3-[(Z)-1-propenyl]-ceph-3-em-4-carboxylic acid (0.84 mmol, yield 84.8%). The overall yield is therefore 95.0%.

reactant | 4-methoxybenzyl (6R,7R) -7-phenylacet-amido-3-(1-propenyl)-ceph-3-em-4-carboxylate | 0.99 mmol, 0.509 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C=CC)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C26H26N2O5S
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
catalyst | Titanium tetrachloride | 4.5 mmol, 0.5 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (6R,7R)-7-phenylacetamido-3-[(E)-1-propenyl]-ceph-3-em-4-carboxylic acid | 0.10 mmol, 0.036 g, yield 10.2% | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)\C=C\C)C(=O)O)C1=O | C18H18N2O4S
